US07572808B2
A. Preparation of 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring, degassed mixture of 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (100 mg, 0.25 mmol), 4-chlorophenylboronic acid (40 mg, 0.28 mmol), and tetrakis(triphenylphosphine)palladium (15 mg, 0.013 mmol) in dioxane (2.0 mL) at 20° C. was added K2CO3 (40 mg, 0.28 mmol) in water (0.6 mL). The resulting reaction mixture was stirred at 100° C. for 15 h under argon. Analysis by HPLC/MS indicated that starting material had been consumed. The reaction mixture was brought to room temperature and was concentrated under reduced pressure. The crude product was purified by reverse phase preparative HPLC (acetonitrile-water-TFA) to isolate the title compound (38 mg, 0.10 mmol) as a yellow solid. MS: [M+H]+=380. 1H NMR (CD3OD): δ 7.73 (d, J=1.8 Hz, 1H), 7.50 (q, 4H), 6.93 (d, J=1.9, 1H), 3.71 (d, J=1.8, 2H), 2.12 (m, 1H), 0.90 (d, J=1.7, 6H).

reactant | 7-bromo-8-iodo-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.25 mmol, 100 mg | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)I | C10H11BrIN3O
reactant | 4-chlorophenylboronic acid | 0.28 mmol, 40 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 0.28 mmol, 40 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.6 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-bromo-8-(4-chlorophenyl)-2-isobutyl-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.10 mmol, 38 mg | BrC1=C(C=2N(C=C1)C(N(N2)CC(C)C)=O)C2=CC=C(C=C2)Cl | C16H15BrClN3O
